* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
R_R3         $N_0004 $N_0003  220  
R_R5         0 $N_0005  47  
R_R2         $N_0006 $N_0003  10k  
R_R4         0 $N_0006  2.2k  
C_C2         $N_0004 $N_0007  1u  
V_V1         $N_0003 0 12V
Q_Q1         $N_0004 $N_0006 $N_0005 Q2N2222
C_C1         $N_0001 $N_0006  1u  
V_V3         $N_0002 0 DC 0V AC 0.5V 
R_R6         0 $N_0007  1M  
